US08609675B2
Step N—Synthesis of Ethyl 2-(4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)cyclohexyl)acetate (Int-5o)
To a solution of ethyl 2-(4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)cyclohexyl)acetate (Int-5n, 512 mg, 715 μmol) in acetonitrile (15 mL) was added N-bromosuccinimide (153 mg, 858 μmol). The resulting solution was allowed to stir at room temperature for 18 hours. After 18 hours, the solvent was reduced in vacuo and the title compound was purified via silica gel chromatography.

reactant | ethyl 2-(4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)cyclohexyl)acetate | 715 μmol, 512 mg | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2CCC(CC2)CC(=O)OCC)COCC[Si](C)(C)C)(C)C | C39H57N5O4Si2
reactant | N-bromosuccinimide | 858 μmol, 153 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | Ethyl 2-(4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)cyclohexyl)acetate | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2CCC(CC2)CC(=O)OCC)Br)COCC[Si](C)(C)C)(C)C | C39H56BrN5O4Si2
